* c:\fossee\esim\library\subcircuitlibrary\tl783\tl783.cir

.include lm_741.sub
.include NMOS-180nm.lib
x1 ? net-_m1-pad3_ net-_u1-padout_ gnd ? net-_m1-pad2_ ? ? lm_741
* u1  net-_r1-pad2_ net-_u1-padout_ zener
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
r1  net-_m1-pad3_ net-_r1-pad2_ 1k
r2  net-_r1-pad2_ gnd 39k
* u2  net-_m1-pad1_ net-_m1-pad3_ net-_r1-pad2_ port
v1  net-_m1-pad1_ gnd 53
a1 net-_r1-pad2_ net-_u1-padout_ u1
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 0.01e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
